US07427612B2
(2-Iodo-5-methanesulfonyl-phenyl)-[4-(4-trifluoromethyl-phenyl)-piperazin-1-yl]-methanone
Example CK was prepared in analogy to Example 123 from 2-Iodo-5-methanesulfonyl-benzoic acid (example BQ) and 1-(4-Trifluoromethyl-phenyl)-piperazine (commercial). MS (m/e): 539.1 (M+H+, 100%).

reactant | 2-Iodo-5-methanesulfonyl-benzoic acid | IC1=C(C(=O)O)C=C(C=C1)S(=O)(=O)C | C8H7IO4S
reactant | 1-(4-Trifluoromethyl-phenyl)-piperazine | FC(C1=CC=C(C=C1)N1CCNCC1)(F)F | C11H13F3N2
product | (2-Iodo-5-methanesulfonyl-phenyl)-[4-(4-trifluoromethyl-phenyl)-piperazin-1-yl]-methanone | IC1=C(C=C(C=C1)S(=O)(=O)C)C(=O)N1CCN(CC1)C1=CC=C(C=C1)C(F)(F)F | C19H18F3IN2O3S
